US06310086B1
tert-Butyl (R)-N-[2-[7-carbamoyl-1-(3-hydroxy-propyl)-2,3-dihydro-1H-indol-5-yl]-1-methylethyl]-N-[2-[2-(2,2,2-trifluoroethoxy)phenoxy]ethyl]carbamate (12.0 g) and ammonium formate (12.7 g) were dissolved in methanol (300 ml), and 10% palladium on carbon (1.20 g) was carefully added to the solution. The mixture was heated overnight under reflux, and the solvent was removed in vacuo. Water was added to the residue, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with brine, and dried over anhydrous sodium sulfate. The solvent was removed in vacuo to give amorphous tert-butyl (R)-N-[2-[7-carbamoyl-1-(3-hydroxy-propyl)-1H-indol-5-yl]-1-methylethyl]-N-[2-[2-(2,2,2-trifluoroethoxy)phenoxy]ethyl]carbamate (12.2 g).

reactant | tert-Butyl (R)-N-[2-[7-carbamoyl-1-(3-hydroxy-propyl)-2,3-dihydro-1H-indol-5-yl]-1-methylethyl]-N-[2-[2-(2,2,2-trifluoroethoxy)phenoxy]ethyl]carbamate | 12.0 g | C(N)(=O)C=1C=C(C=C2CCN(C12)CCCO)C[C@@H](C)N(C(OC(C)(C)C)=O)CCOC1=C(C=CC=C1)OCC(F)(F)F | C30H40F3N3O6
reactant | ammonium formate | 12.7 g | C(=O)[O-].[NH4+]
solvent | methanol | 300 ml | CO | CH4O
catalyst | palladium on carbon | 1.20 g | [Pd] | Pd
product | tert-butyl (R)-N-[2-[7-carbamoyl-1-(3-hydroxy-propyl)-1H-indol-5-yl]-1-methylethyl]-N-[2-[2-(2,2,2-trifluoroethoxy)phenoxy]ethyl]carbamate | 12.2 g | C(N)(=O)C=1C=C(C=C2C=CN(C12)CCCO)C[C@@H](C)N(C(OC(C)(C)C)=O)CCOC1=C(C=CC=C1)OCC(F)(F)F | C30H38F3N3O6
